US04096257
Preparation of 5-n-propyl-imidazo[1,2-d]-as-triazin-8(7H)-one
A mixture of 37.0 gm. of 2-imidazolecarboxylic acid hydrazide, prepared by the method of U.S. Pat. No. 3,600,399, 2.5 liters of ethanol and 325 ml. of trimethylorthobutyrate is refluxed overnight and evaporated to a solid. This solid is ground, added to 400 ml. of diphenyl ether and heated in an oil bath at 220°-245° C. for 30 minutes. The mixture is cooled to room temperature and crystallized by the addition of 100 ml. of petroleum ether. The solid is collected, washed twice with petroleum ether, recrystallized from 300 ml. of a hot mixture of ethanol and methanol and treated with charcoal giving 53.5 gm. of the desired final product, m.p. 153°-159° C.

reactant | 2-imidazolecarboxylic acid hydrazide | N1C(=NC=C1)C(=O)NN | C4H6N4O
reactant | trimethylorthobutyrate | COC(CCC)(OC)OC | C7H16O3
solvent | ethanol | 2.5 liters | C(C)O | C2H6O
product | 5-n-propyl-imidazo[1,2-d]-as-triazin-8(7H)-one | C(CC)C1=NNC(C=2N1C=CN2)=O | C8H10N4O
